### PR TITLE
Add a definition of blades, and prove the vectors are 1-blade and the scalars 0-blades

### PR DESCRIPTION
**Pull request by eric-wieser**

### CODE REVIEW

File: src/geometric_algebra/nursery/chisolm.lean [hunk 1]
```diff
@@ -69,6 +69,28 @@ local infix `*₊`:75 := sym_prod
 
 local infix `*₊ᵥ`:75 := sym_prod_vec
 
+
+def is_orthogonal (a : G₁) (b : G₁) : Prop := sym_prod_vec a b = 0
+
+theorem zero_is_orthogonal (a : G₁) : is_orthogonal 0 a := begin
+  unfold is_orthogonal,
+  unfold sym_prod_vec,
+  unfold prod_vec,
```
Comment (utensil) [inline src/geometric_algebra/nursery/chisolm.lean:78]: This could be simplified to `dsimp` I guess.

File: src/geometric_algebra/nursery/chisolm.lean [hunk 2]
```diff
@@ -69,6 +69,28 @@ local infix `*₊`:75 := sym_prod
...
+  simp
```
Comment (utensil) [inline src/geometric_algebra/nursery/chisolm.lean:79]: I kind of like to use `squeeze_simp` to replace the output with `simp only [rw_rule1, rw_rule2, ...]` to stabilize the behavior.

File: src/geometric_algebra/nursery/chisolm.lean (hunk 1 above)
Comment (utensil) [inline src/geometric_algebra/nursery/chisolm.lean:78]:
```suggestion
  dsimp only [is_orthogonal, sym_prod_vec, prod_vec],
```

File: src/geometric_algebra/nursery/chisolm.lean (hunk 2 above)
Comment (utensil) [reply src/geometric_algebra/nursery/chisolm.lean:79]:
```suggestion
  simp only [add_zero, zero_mul, mul_zero, add_monoid_hom.map_zero],
```

File: src/geometric_algebra/nursery/chisolm.lean [hunk 3]
```diff
@@ -105,6 +127,17 @@ exists.elim (vec_sq_scalar (a + b))
...
 
+/- The scalars are 0-blades, as is the result of the vector/vector sym_prod -/
+instance scalar_blade0 (a : G₀) : blade (fₛ a) 0 := blade.scalar (by use a)
+instance vec_sym_prod_blade0 (a b : G₁) : blade (a *₊ᵥ b) 0 := blade.scalar (vec_sym_prod_scalar a b)
+
+/- The vectors are 1-blades -/
+instance vector_blade1 (a : G₁) : blade (fᵥ a) 1 := blade.graded (begin
+  use ⟨(vector.cons a vector.nil), list.pairwise_singleton _ _⟩,
+  unfold vector.nil,
+  simp,
```
Comment (utensil) [inline src/geometric_algebra/nursery/chisolm.lean:138]:
```suggestion
  simp only [vector.nil, vector.cons_tail, vector.cons_head, list.foldl],
```

File: src/geometric_algebra/nursery/chisolm.lean [hunk 4]
```diff
@@ -69,6 +69,28 @@ local infix `*₊`:75 := sym_prod
...
+class inductive blade (b : G): nat → Type u
+| scalar :
+  -- equals a scalar
+  (∃ (k: G₀),
+   b = fₛ k)
+  → blade 0
+| graded {n : ℕ} :
+  -- or a product of orthogonal vectors
+  (∃ (v : {l : vector G₁ (n + 1) // l.val.pairwise (λ a b, is_orthogonal a b ∧ a ≠ b)}),
+   b = list.foldl (λ (b : G) (a : G₁), fᵥ a * b) (fᵥ v.val.head) v.val.tail.val)
```
Comment (utensil) [inline src/geometric_algebra/nursery/chisolm.lean:91]: We could do two things here:

1. use https://github.com/leanprover-community/mathlib/blob/master/src/algebra/big_operators.lean instead of the `foldl` to make it look like math formula more
2. have a lemma to do the unfold/simp stuff, so the actual proof can focus on the real goal

Comment (utensil) [reply src/geometric_algebra/nursery/chisolm.lean:91]: See https://leanprover.zulipchat.com/#narrow/stream/113489-new-members/topic/iterating.20over.20subscripts.20.26.20generalizing.20products/near/201907701 for an example of 1

Comment (eric-wieser) [reply src/geometric_algebra/nursery/chisolm.lean:91]: Another approach would be to up-convert all the vectors to `G` and use `list.prod`. I suspect an explicit foldl might be easier to recourse over, but have little intuition there.

Comment (utensil) [reply src/geometric_algebra/nursery/chisolm.lean:91]: What I had in mind was to first prove GA is a vector space, and reuse the theorems there to prove the stuff about basis, generated, span etc. I still trying to figure out how to construct stuff based on theorems.

As for graded algebra, previously I found [commutative differential graded algebras](https://gist.github.com/kbuzzard/f5ee35457c5d257ceec58c66d7da0c38) to be a good reference implementation. It seems that I don't really need the bases to define the grade operations.
